US20010027196A1
2-Amino-4-(2-benzylamino-ethylamino)-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile and benzylethylenediamine in DME. ES-MS m/e (%): 335 (M+H+, 100), 228 ([M+H-BnNH2]+, 45).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | benzylethylenediamine | C(C1=CC=CC=C1)NCCN | C9H14N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(2-benzylamino-ethylamino)-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCCNCC1=CC=CC=C1)C#N)C=1OC=CC1 | C18H18N6O
